US08937092B2
A solution of 4-nitrobenzyl methanesulfonate (2.2 g, 9.51 mmol) in dimethylformamide (10 mL) was added potassium phthalimide (1.9 g, 10.5 mmol) and stirred at room temperature for overnight. TLC showed complete consumption of starting material. The mixture was extracted with ethyl acetate and washed with water and brine. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The crude was purified by crystallization to give 2-(4-nitrobenzyl)isoindoline-1,3-dione (1.6 g, 60%).

reactant | 4-nitrobenzyl methanesulfonate | 9.51 mmol, 2.2 g | CS(=O)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO5S
reactant | potassium phthalimide | 10.5 mmol, 1.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(4-nitrobenzyl)isoindoline-1,3-dione | 1.6 g, 60% | [N+](=O)([O-])C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C15H10N2O4
